US07279580B2
A mixture of crude benzhydrylidene(3-fluoropyridin-2-yl)amine (49.4 g), 2-bromoacetaldehyde diethyl acetal (56 ml, 0.37 mol), 48% hydrobromic acid (20 ml) and water (20 ml) were heated to 90° C. for 20 min. On cooling, the mixture was diluted with isopropanol (450 ml), NaHCO3 (68 g) was added cautiously, and the mixture filtered. The residue was washed with further isopropanol (450 ml) and the combined organics were stirred and heated to 50° C. for 18 h. On cooling, the solution was concentrated in vacuo and azeotroped with EtOAc (2×440 ml). The remaining mixture was suspended in EtOAc (400 ml), filtered and the residue washed with further EtOAc until the filtrate ran clear (1 l ). The solid orange-coloured residue was then suspended between water (100 ml) and EtOAc (220 ml) and the aqueous phase pH adjusted to 8-9 by addition of saturated aqueous NaHCO3 solution (450 ml). The phases were separated and the aqueous extracted with further EtOAc (2×220 ml). The combined organic extracts were dried over anhydrous MgSO4 and concentrated in vacuo affording crude 8-fluoroimidazo[1,2-α]pyridine. Purification was achieved by dissolving the crude material in EtOAc (1 l) and extracting with 2 N hydrochloric acid (5×50 ml). The acid washings were back-extracted with EtOAc (3×100 ml), adjusted to pH 11-12 using 4 N aqueous sodium hydroxide solution and re-extracted with EtOAc (5×100 ml). The combined organic fractions were washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo to afford 8-fluoroimidazo[1,2-α]pyridine (11.4 g, 76% from 2-chloro-3-fluoropyridine): δH (400 MHz, CDCl3) 6.69-6.74 (1H, m), 6.84-6.87 (1H, m), 7.65-7.66 (2H, m), 7.97 (1H, dd, J 1.0 and 6.8); m/z (ES+) 137 (100%, [MH]+).

reactant | benzhydrylidene(3-fluoropyridin-2-yl)amine | 49.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=NC=CC=C1F | C18H13FN2
reactant | 2-bromoacetaldehyde diethyl acetal | 0.37 mol, 56 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | NaHCO3 | 68 g | C(=O)(O)[O-].[Na+]
solvent | isopropanol | 450 ml | C(C)(C)O | C3H8O
solvent | water | 20 ml | O | H2O
product | 8-fluoroimidazo[1,2-α]pyridine | FC=1C=2N(C=CC1)C=CN2 | C7H5FN2
